US04495101
2-Nitrobenzylchloride dissolved in ethanol is heated at reflux with a 10% molar excess of sodium azide for from six to eight hours. Insoluble salts are removed by filtration, the ethanol removed, and the resultant oil is dissolved in diethyl ether. Additional insoluble material is removed by filtration and 2-nitrobenzylazide is obtained as a pale yellow oil by removal of the diethyl ether.

reactant | 2-Nitrobenzylchloride | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-nitrobenzylazide | [N+](=O)([O-])C1=C(CN=[N+]=[N-])C=CC=C1 | C7H6N4O2
